US05486466
To a solution of 60.0 g of sodium-[(S)-2,2-dimethyl-1,3-dioxolan-4-yl]carboxylate in 500 ml of dimethylformamide were added 136.0 g of O-benzotriazol-1-yl-N,N,N',N'-tetramethyluronium-hexafluorophosphate. The mixture was stirred at 20° C. for 0.5 hours, then 62 g L-cysteine methyl ester hydrochloride and subsequently 36.7 g of N-methylmorpholine were added. The mixture was stirred at 20° C. for 3.5 hours. The solvent was evaporated in vacuo and the oily residue was partitioned between water and ethyl acetate. The organic layer was washed successively with saturated sodium carbonate solution, saturated potassium hydrogensulfate solution, and brine, and then dried over magnesium sulfate. The solvent was evaporated in vacuo, and the residual oil was heated at reflux in a mixture of 50 ml of trifluoroacetic acid and 500 ml of methanol for 2.5 hours. The solvent was evaporated in vacuo, and the residue was crystallized from tert-butyl-methyl-ether to give 33.4 g of N-[(S)-2,3-dihydroxypropionyl]-L-cysteine methyl ester as white crystals of m.p. 90°-92° C.

reactant | sodium [(S)-2,2-dimethyl-1,3-dioxolan-4-yl]carboxylate | 60.0 g | [Na].CC1(OC[C@H](O1)C(=O)[O-])C
reactant | O-benzotriazol-1-yl-N,N,N',N'-tetramethyluronium hexafluorophosphate | 136.0 g | N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
reactant | L-cysteine methyl ester hydrochloride | 62 g | Cl.COC([C@@H](N)CS)=O
reactant | N-methylmorpholine | 36.7 g | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | N-[(S)-2,3-dihydroxypropionyl]-L-cysteine methyl ester | 33.4 g | COC([C@@H](NC([C@H](CO)O)=O)CS)=O | C7H13NO5S
